US05252538
Preparation of 4-pentynyl methanesulfonate
To pentyne-4-ol (Farchan Chemical Co) (42.0 g; 0.5 mols) in 500 mL ether at -5° C. (dry ice bath) is added in a rapid dropwise fashion triethylamine (104.8 mL; 0.75 mols) diluted with 100 mL ether. While maintaining the temperature at or below 15° C. throughout, methane sulfonyl chloride, (94.2 mL; 0.70 mols) diluted with 100 mL ether, is added dropwise over 45 minutes. The thick suspension is stirred an additional 30 minutes, after which the precipitate is filtered. The filter cake is washed with ether and the combined ether layers washed twice with water, then once with brine. The ether layer is then dried over anhydrous magnesium sulfate and solvent removed under reduced pressure to yield the product as a pale yellow oil; yield 64 g (79%), which is used in the next step without further purification.

reactant | pentyne-4-ol | 0.5 mols, 42.0 g | C#CCC(C)O | C5H8O
reactant | dry ice | C(=O)=O | CO2
reactant | triethylamine | 0.75 mols, 104.8 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 4-pentynyl methanesulfonate | CS(=O)(=O)OCCCC#C | C6H10O3S
